US08669271B2
4-{5-[4-(Methanesulfonyl-methyl-amino)-piperidin-1-yl]-2,3-dihydro-furo[2,3-c]pyridin-2-yl}-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and N-methyl-N-piperidin-4-ylmethanesulfonamide following a procedure analogous to that described in Example 79. LC (method 10): tR=1.35 min; Mass spectrum (ESI+): m/z=495 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Br)O1 | C17H23BrN2O3
reactant | N-methyl-N-piperidin-4-ylmethanesulfonamide | CN(S(=O)(=O)C)C1CCNCC1 | C7H16N2O2S
product | 4-{5-[4-(Methanesulfonyl-methyl-amino)-piperidin-1-yl]-2,3-dihydro-furo[2,3-c]pyridin-2-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2CCC(CC2)N(C)S(=O)(=O)C)O1 | C24H38N4O5S
